US04061746
Hexahydro-2-[(cis-2-phenylcyclopentyl)imino]azepinehydrochloride
A mixture of 4.0 g of cis-2-phenylcyclopentylamine hydrochloride, M.P. 205°-206° C and 5.0 ml of O-methylcaprolactim is allowed to stand at room temperature for 6 days with occasional stirring. A few drops of ethanol are added to maintain a stirrable slurry, after which the mixture is cooled. The resulting solid is washed with ether and recrystallized from acetone/methanol to give the desired product, M.P. 181.5°-183.5° C (dec.).

reactant | cis-2-phenylcyclopentylamine hydrochloride | 4.0 g | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N
reactant | O-methylcaprolactim | 5.0 ml | COC=1CCCCCN1 | C7H13NO
catalyst | ethanol | A few drops | C(C)O | C2H6O
product | Hexahydro-2-[(cis-2-phenylcyclopentyl)imino]azepinehydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N=C1NCCCCC1 | InChI=1S/C17H24N2.ClH/c1-3-8-14(9-4-1)15-10-7-11-16(15)19-17-12-5-2-6-13-18-17;/h1,3-4,8-9,15-16H,2,5-7,10-13H2,(H,18,19);1H/t15-,16-;/m1./s1
